US07781454B2
Step 3: tert-butyl 3-methyl-1H-pyrazolo[3,4-b]pyridine-1-carboxylate
A stirred solution of 692 mg (5.20 mmol) of 3-methyl-1H-pyrazolo[3,4-b]pyridine in 25 mL of acetonitrile under nitrogen was cooled to 0° C. in an ice bath, and was treated with 635 mg (5.20 mmol) of DMAP and 761 μL (5.46 mmol) of triethylamine. A solution of 1.36 g (6.24 mmol) of (BOC)2O in 5 mL acetonitrile was then added dropwise using an addition funnel. Upon completion of addition, the ice bath was removed and the mixture was stirred for an additional 18 hours at room temperature. Solvent was removed in vacuo, and the residue was partitioned between EtOAc and H2O. The organic layer was separated, dried (MgSO4), filtered and concentrated in vacuo to an orange oil. This crude material was purified by flash chromatography over silica gel with 1:1 ethyl acetate/hexanes to give the title product as a clear oil. 1H NMR (CDCl3): δ 1.74 (s, 9H), 2.60 (s, 3H), 7.29 (m, 1H), 8.02 (dd, 1H), 8.74 (dd, 1H).

reactant | 3-methyl-1H-pyrazolo[3,4-b]pyridine | 5.20 mmol, 692 mg | CC1=NNC2=NC=CC=C21 | C7H7N3
reactant | triethylamine | 5.46 mmol, 761 μL | C(C)N(CC)CC | C6H15N
reactant | (BOC)2O | 6.24 mmol, 1.36 g | O(C(=O)OC(C)(C)C)C(=O)OC(C)(C)C | C10H18O5
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
catalyst | DMAP | 5.20 mmol, 635 mg | CN(C)C=1C=CN=CC1 | C7H10N2
solvent | acetonitrile | 5 mL | C(C)#N | C2H3N
product | tert-butyl 3-methyl-1H-pyrazolo[3,4-b]pyridine-1-carboxylate | CC1=NN(C2=NC=CC=C21)C(=O)OC(C)(C)C | C12H15N3O2
